US06169102A
2-diacetylamino-5-[1-(indol-3-yl)ethyl]-2-oxazolin-4-one
2-amino-5-[1-(indol-3-yl)ethyl]-2-oxazolin-4-one (300 mg) was dissolved into tetrahydrofuran (2 ml). Triethylamine (344 μl) and acetyl chloride (123 μl) were added under ice cooling. The mixture was stirred for 2 hours at 0° C. Triethylamine (344 μl) and acetyl chloride (123 μl) were added again. The whole was further stirred for 2 hours. To the reaction mixture was added water and the whole was extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. Concentration of the solution gave a residue, which was subjected to silica gel chromatography. The eluent with hexane-acetone (1:1) was collected and concentrated to provide the titled compound (40 mg).

reactant | 2-amino-5-[1-(indol-3-yl)ethyl]-2-oxazolin-4-one | 300 mg | NC=1OC(C(N1)=O)C(C)C1=CNC2=CC=CC=C12 | C13H13N3O2
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | Triethylamine | 344 μl | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 123 μl | C(C)(=O)Cl | C2H3ClO
reactant | Triethylamine | 344 μl | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 123 μl | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | 2-diacetylamino-5-[1-(indol-3-yl)ethyl]-2-oxazolin-4-one | 40 mg | C(C)(=O)N(C=1OC(C(N1)=O)C(C)C1=CNC2=CC=CC=C12)C(C)=O | C17H17N3O4
